US09062032B2
By using 1.71 g of tert-butyl 3-(hydroxymethyl)-4-[3-({3-[(4-{2-[4-(methoxycarbonyl)phenyl]ethyl}phenyl)carbamoyl]-4,5,6,7-tetrahydro-1-benzothiophen-2-yl}carbamoyl)benzyl]piperazine-1-carboxylate and 17 mL of TFA, a reaction was performed under the conditions similar to Preparation Example 12, thereby obtaining 1.38 g of methyl 4-(2-{4-[({2-[(3-{[2-(hydroxymethyl)piperazin-1-yl]methyl}benzoyl)amino]-4,5,6,7-tetrahydro-1-benzothiophen-3-yl}carbonyl)amino]phenyl}ethyl)benzoate.

reactant | tert-butyl 3-(hydroxymethyl)-4-[3-({3-[(4-{2-[4-(methoxycarbonyl)phenyl]ethyl}phenyl)carbamoyl]-4,5,6,7-tetrahydro-1-benzothiophen-2-yl}carbamoyl)benzyl]piperazine-1-carboxylate | 1.71 g | OCC1CN(CCN1CC1=CC(=CC=C1)C(NC=1SC2=C(C1C(NC1=CC=C(C=C1)CCC1=CC=C(C=C1)C(=O)OC)=O)CCCC2)=O)C(=O)OC(C)(C)C | C43H50N4O7S
reactant | TFA | 17 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | methyl 4-(2-{4-[({2-[(3-{[2-(hydroxymethyl)piperazin-1-yl]methyl}benzoyl)amino]-4,5,6,7-tetrahydro-1-benzothiophen-3-yl}carbonyl)amino]phenyl}ethyl)benzoate | 1.38 g | OCC1N(CCNC1)CC=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1 | C38H42N4O5S
